US04306097
3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]cyclohexanone
A mixture of 19.5 g. (0.0468 mol.) of 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanone, 12.3 g. of sodium bicarbonate, 3.00 g. of 10% palladium-on-carbon and 250 ml. of ethanol was stirred under one atmosphere of hydrogen pressure for 1.5 hours. The reaction mixture was then filtered through diatomaceous earth with ethyl acetate and the filtrate evaporated to a solid. The crude solid was purified via column chromatography on 280 g. of silica gel eluted with 20% ethercyclohexane to yield a solid. Recrystallization of this solid from aqueous methanol gave 9.1 g. (62%) of the title product, m.p. 87° C., principally in the hemiketal form.

reactant | 3-[2-benzyloxy-4-(1,1-dimethylheptyl)phenyl]cyclohexanone | 0.0468 mol | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)C(CCCCCC)(C)C)C1CC(CCC1)=O | C28H38O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-[4-(1,1-Dimethylheptyl)-2-hydroxyphenyl]cyclohexanone | 62% | CC(CCCCCC)(C)C1=CC(=C(C=C1)C1CC(CCC1)=O)O | C21H32O2
